US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, thiazol-2-ylamine and DIEA to give 2-(thiazol-2-ylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 339 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | thiazol-2-ylamine | S1C(=NC=C1)N | C3H4N2S
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(thiazol-2-ylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | S1C(=NC=C1)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C16H10N4OS2
